US05795986
9-[2-(1-Piperidinyl)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole monohydrochloride (I)
A mixture of 9-[2-(1-piperidinyl)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole (I, EXAMPLE5, 44 g) and aqueous hydrochloric acid (1M, 107 mL) in ethanol (900 mL) is stirred at 60° until the mixture becomes homogeneous. The mixture is concentrated under reduced pressure in a stream of nitrogen. When the reaction volume reaches approximately half of the original volume, crystallization begins. The mixture is cooled to -10° for 3 hr and the title compound, is isolated by filtration, mp >260°; NMR (CDCl3) 7.88, 7.52, 7.28, 7.13, 4.86, 3.94-3.89, 3.62, 3.45, 3.15 and 2.01-1.96 δ.

reactant | 9-[2-(1-piperidinyl)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole | 44 g | N1(CCCCC1)CCN1C2=C(C3=CC=CC=C13)C(=NC(=N2)N2CCCC2)N2CCCC2 | C25H34N6
reactant | hydrochloric acid | 1M, 107 mL | Cl | ClH
solvent | ethanol | 900 mL | C(C)O | C2H6O
product | 9-[2-(1-Piperidinyl)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole monohydrochloride | Cl.N1(CCCCC1)CCN1C2=C(C3=CC=CC=C13)C(=NC(=N2)N2CCCC2)N2CCCC2 | InChI=1S/C25H34N6.ClH/c1-4-12-28(13-5-1)18-19-31-21-11-3-2-10-20(21)22-23(29-14-6-7-15-29)26-25(27-24(22)31)30-16-8-9-17-30;/h2-3,10-11H,1,4-9,12-19H2;1H
